### PR TITLE
[Merged by Bors] - feat: add some lemmas for Haar measures

### PR DESCRIPTION
**Pull request by xroblot**
We prove some lemmas that will be useful in following PRs #6832 and #7037, mainly:
```lean
theorem Basis.addHaar_eq {b : Basis ι ℝ E} {b' : Basis ι' ℝ E} :
     b.addHaar = b'.addHaar ↔ b.addHaar b'.parallelepiped = 1

theorem Basis.parallelepiped_eq_map (b : Basis ι ℝ E) :
     b.parallelepiped = (TopologicalSpace.PositiveCompacts.piIcc01 ι).map b.equivFun.symm
       b.equivFunL.symm.continuous

theorem Basis.addHaar_map (b : Basis ι ℝ E) (f : E ≃L[ℝ] F) :
    map f b.addHaar = (b.map f.toLinearEquiv).addHaar
```

Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Haar/Basic.lean [hunk 1]
```diff
@@ -698,6 +698,12 @@ theorem haarMeasure_unique (μ : Measure G) [SigmaFinite μ] [IsMulLeftInvariant
 #align measure_theory.measure.haar_measure_unique MeasureTheory.Measure.haarMeasure_unique
 #align measure_theory.measure.add_haar_measure_unique MeasureTheory.Measure.addHaarMeasure_unique
 
+@[to_additive]
+theorem  haarMeasure_eq (K₀ K₁ : TopologicalSpace.PositiveCompacts G) :
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/Basic.lean:702]:
```suggestion
theorem haarMeasure_eq (K₀ K₁ : TopologicalSpace.PositiveCompacts G) :
```

Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/Basic.lean:702]: I think this lemma could do with a docstring; the statement looks quite strange to me!

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean [hunk 2]
```diff
@@ -79,6 +83,42 @@ theorem Basis.parallelepiped_basisFun (ι : Type*) [Fintype ι] :
...
+
+theorem Basis.parallelepiped_measurable {ι E : Type*} [Fintype ι] [NormedAddCommGroup E]
+    [NormedSpace ℝ E] [MeasurableSpace E] [OpensMeasurableSpace E] (b : Basis ι ℝ E) :
+    MeasurableSet (b.parallelepiped : Set E) := by
+  rw [Basis.parallelepiped_eq_map, PositiveCompacts.coe_map, LinearEquiv.image_symm_eq_preimage]
+  exact (continuous_equivFun_basis _).measurable (PositiveCompacts.piIcc01_measurable ι)
+
+open MeasureTheory MeasureTheory.Measure
+
+theorem Basis.addHaar_map {ι E F : Type*} [Fintype ι] [NormedAddCommGroup E]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:108]: I think `map_addHaar` might be a better name here, since the statement is `map _ (addHaar b) = _`. I'd also be fine with switching the direction of the statement instead.

Of course, maybe your name is consistent with something earlier in the file; if so, you're off the hook and this is fine!

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean [hunk 3]
```diff
@@ -79,6 +83,42 @@ theorem Basis.parallelepiped_basisFun (ι : Type*) [Fintype ι] :
     · exact zero_le_one
 #align basis.parallelepiped_basis_fun Basis.parallelepiped_basisFun
 
+ /-- A parallelepiped can be expressed on the standard basis. -/
+ theorem Basis.parallelepiped_eq_map  {ι E : Type*} [Fintype ι] [NormedAddCommGroup E]
+    [NormedSpace ℝ E] (b : Basis ι ℝ E) :
+    b.parallelepiped = (TopologicalSpace.PositiveCompacts.piIcc01 ι).map b.equivFun.symm
+    b.equivFunL.symm.continuous
+      (by have := FiniteDimensional.of_fintype_basis b
+          exact LinearMap.isOpenMap_of_finiteDimensional _ b.equivFun.symm.surjective) := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:92]:
```suggestion
    b.parallelepiped = (TopologicalSpace.PositiveCompacts.piIcc01 ι).map b.equivFun.symm
      b.equivFunL.symm.continuous
      (by have := FiniteDimensional.of_fintype_basis b
          exact LinearMap.isOpenMap_of_finiteDimensional _ b.equivFun.symm.surjective) := by
```
to make it clear these arguments are wrapped

File: Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean [hunk 4]
```diff
@@ -226,6 +226,22 @@ instance IsAddHaarMeasure_basis_addHaar (b : Basis ι ℝ E) : IsAddHaarMeasure
   rw [Basis.addHaar]; exact Measure.isAddHaarMeasure_addHaarMeasure _
 #align is_add_haar_measure_basis_add_haar IsAddHaarMeasure_basis_addHaar
 
+instance [TopologicalSpace.SecondCountableTopology E] (b : Basis ι ℝ E) :
+    SigmaFinite b.addHaar := by
+  rw [Basis.addHaar_def]; exact MeasureTheory.Measure.sigmaFinite_addHaarMeasure
+
+theorem Basis.addHaar_eq  {ι' : Type*} [Fintype ι'] [TopologicalSpace.SecondCountableTopology E]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean:233]:
```suggestion
theorem Basis.addHaar_eq {ι' : Type*} [Fintype ι'] [TopologicalSpace.SecondCountableTopology E]
```

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean [hunk 5]
```diff
@@ -70,6 +70,10 @@ def TopologicalSpace.PositiveCompacts.piIcc01 (ι : Type*) [Fintype ι] :
       imp_true_iff, zero_lt_one]
 #align topological_space.positive_compacts.pi_Icc01 TopologicalSpace.PositiveCompacts.piIcc01
 
+theorem TopologicalSpace.PositiveCompacts.piIcc01_measurable (ι : Type*) [Fintype ι] :
+    MeasurableSet (TopologicalSpace.PositiveCompacts.piIcc01 ι : Set (ι → ℝ)) := by
+  exact MeasurableSet.pi countable_univ (fun _ _ => measurableSet_Icc)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:75]: Why do you need this theorem? Can't you just use [IsCompact.measurableSet](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.html#IsCompact.measurableSet)?

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:92]: Instead of the `by` block, you should be able to combine [ContinuousLinearEquiv.toHomeomorph](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/Basic.html#ContinuousLinearEquiv.toHomeomorph) with [Homeomorph.isOpenMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Homeomorph.html#Homeomorph.isOpenMap). Actually, if you want to do it, it would probably be nice to add `ContinuousLinearEquiv.isOpenMap` to do that directly.

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean [hunk 6]
```diff
@@ -79,6 +83,42 @@ theorem Basis.parallelepiped_basisFun (ι : Type*) [Fintype ι] :
...
+  classical
+  ext
+  simp only [map_apply, Pi.basisFun_apply, equivFun_symm_apply, LinearMap.stdBasis_apply',
+    Finset.sum_univ_ite]
+
+theorem Basis.parallelepiped_measurable {ι E : Type*} [Fintype ι] [NormedAddCommGroup E]
+    [NormedSpace ℝ E] [MeasurableSpace E] [OpensMeasurableSpace E] (b : Basis ι ℝ E) :
+    MeasurableSet (b.parallelepiped : Set E) := by
+  rw [Basis.parallelepiped_eq_map, PositiveCompacts.coe_map, LinearEquiv.image_symm_eq_preimage]
+  exact (continuous_equivFun_basis _).measurable (PositiveCompacts.piIcc01_measurable ι)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:104]: Again, could you not use [IsCompact.measurableSet](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.html#IsCompact.measurableSet)? Maybe it's worth adding `PositiveCompacts.measurableSet`.

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean]: As suggested, I added `ContinuousLinearEquiv.isOpenMap` and used it directly in the statement of this result.

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean]: Oops, I guess the reason is that I didn't know about this result. It does make things a lot easier and this result is not needed anymore.

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean]: I have removed this result and used [IsCompact.measurableSet](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.html#IsCompact.measurableSet) instead. Although, it might be better to leave the result with the one-line proof using [IsCompact.measurableSet](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.html#IsCompact.measurableSet).

File: Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean [hunk 7]
```diff
@@ -226,6 +226,24 @@ instance IsAddHaarMeasure_basis_addHaar (b : Basis ι ℝ E) : IsAddHaarMeasure
   rw [Basis.addHaar]; exact Measure.isAddHaarMeasure_addHaarMeasure _
 #align is_add_haar_measure_basis_add_haar IsAddHaarMeasure_basis_addHaar
 
+instance [TopologicalSpace.SecondCountableTopology E] (b : Basis ι ℝ E) :
+    SigmaFinite b.addHaar := by
+  rw [Basis.addHaar_def]; exact MeasureTheory.Measure.sigmaFinite_addHaarMeasure
+
+/-- Let `b` and `b'` two bases of `E`. The basis `b'` defines the same Haar measure as the basis
+`b` iff the parallelepiped defined by `b'` has measure `1` for the Haar measure defined by `b`. -/
+theorem Basis.addHaar_eq_iff {ι' : Type*} [Fintype ι'] [TopologicalSpace.SecondCountableTopology E]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean:235]: There's already a `ι'` at the top of the file, isn't there?
```suggestion
theorem Basis.addHaar_eq_iff [TopologicalSpace.SecondCountableTopology E]
```

File: Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean [hunk 8]
```diff
@@ -226,6 +226,24 @@ instance IsAddHaarMeasure_basis_addHaar (b : Basis ι ℝ E) : IsAddHaarMeasure
...
+    {b : Basis ι ℝ E} {b' : Basis ι' ℝ E} :
+    b.addHaar = b'.addHaar ↔ b.addHaar b'.parallelepiped = 1 := by
+  rw [Basis.addHaar_def, Basis.addHaar_def]
+  exact Measure.addHaarMeasure_eq_iff b.parallelepiped b'.parallelepiped
+
+@[simp]
+theorem Basis.addHaar_reindex {ι ι' E : Type*} [Fintype ι] [Fintype ι'] [NormedAddCommGroup E]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean:242]:
```suggestion
theorem Basis.addHaar_reindex {E : Type*} [NormedAddCommGroup E]
```
Is `E` needed, or can yo ure-use the global one?

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean [hunk 9]
```diff
@@ -79,6 +79,34 @@ theorem Basis.parallelepiped_basisFun (ι : Type*) [Fintype ι] :
     · exact zero_le_one
 #align basis.parallelepiped_basis_fun Basis.parallelepiped_basisFun
 
+ /-- A parallelepiped can be expressed on the standard basis. -/
+ theorem Basis.parallelepiped_eq_map  {ι E : Type*} [Fintype ι] [NormedAddCommGroup E]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:83]: By the way, why can't that be in `MeasureTheory.Measure.Haar.OfBasis`?

File: Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean (hunk 8 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean]: Yes, I did a loose job of tracking what was or was not already declared. It should be better now.

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean (hunk 9 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:83]: This result needs `PositiveCompacts.piIcc01` that is only defined a few lines above in this file.

Comment (ADedecker) [reply Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:83]: Ah of course, sorry :facepalm:

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean [hunk 10]
```diff
@@ -79,6 +79,34 @@ theorem Basis.parallelepiped_basisFun (ι : Type*) [Fintype ι] :
...
+    [NormedSpace ℝ E] (b : Basis ι ℝ E) :
+    b.parallelepiped = (PositiveCompacts.piIcc01 ι).map b.equivFun.symm
+      b.equivFunL.symm.continuous b.equivFunL.symm.isOpenMap := by
+  rw [← Basis.parallelepiped_basisFun]
+  refine (congrArg _ ?_).trans (Basis.parallelepiped_map _ _)
+  classical
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:89]:
```suggestion
  classical
  rw [← Basis.parallelepiped_basisFun, ← Basis.parallelepiped_map]
  congr
```

I think this looks a bit cleaner.

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean (hunk 9 above)
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:83]:
```suggestion
/-- A parallelepiped can be expressed on the standard basis. -/
theorem Basis.parallelepiped_eq_map  {ι E : Type*} [Fintype ι] [NormedAddCommGroup E]
```

File: Mathlib/MeasureTheory/Measure/Haar/Basic.lean [hunk 11]
```diff
@@ -698,6 +698,14 @@ theorem haarMeasure_unique (μ : Measure G) [SigmaFinite μ] [IsMulLeftInvariant
 #align measure_theory.measure.haar_measure_unique MeasureTheory.Measure.haarMeasure_unique
 #align measure_theory.measure.add_haar_measure_unique MeasureTheory.Measure.addHaarMeasure_unique
 
+/-- Let `K₀ K₁ : TopologicalSpace.PositiveCompacts G`, then `K₁` defines the same Haar measure as
+`K₀` iff it has measure `1` for the Haar measure defined by `K₀`. -/
+@[to_additive]
+theorem haarMeasure_eq_iff (K₀ K₁ : PositiveCompacts G) :
+    haarMeasure K₀ = haarMeasure K₁ ↔ (haarMeasure K₀) K₁ = 1 :=
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Haar/Basic.lean:705]: What do you think of replacing `haarMeasure K₀` by an arbitrary Haar measure here? It would still apply to this case, but I think it would also be useful in other cases. For example I think it would simplify the proof of `Basis.map_addHaar`.

Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Haar/Basic.lean:705]: That's a really good point! I didn't think about it but it should make things a lot cleaner.

Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Haar/Basic.lean]: The results are now stated with the generality of [MeasureTheory.Measure.haarMeasure_unique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Haar/Basic.html#MeasureTheory.Measure.haarMeasure_unique)

File: Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean [hunk 12]
```diff
@@ -79,6 +79,30 @@ theorem Basis.parallelepiped_basisFun (ι : Type*) [Fintype ι] :
...
+  congr
+  ext; simp only [map_apply, Pi.basisFun_apply, equivFun_symm_apply, LinearMap.stdBasis_apply',
+    Finset.sum_univ_ite]
+
+open MeasureTheory MeasureTheory.Measure
+
+theorem Basis.map_addHaar {ι E F : Type*} [Fintype ι] [NormedAddCommGroup E] [NormedAddCommGroup F]
+    [NormedSpace ℝ E] [NormedSpace ℝ F] [MeasurableSpace E] [MeasurableSpace F] [BorelSpace E]
+    [BorelSpace F] [SecondCountableTopology F] [SigmaCompactSpace F]
+    (b : Basis ι ℝ E)  (f : E ≃L[ℝ] F) :
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Lebesgue/EqHaar.lean:98]:
```suggestion
    (b : Basis ι ℝ E) (f : E ≃L[ℝ] F) :
```

**Review by ADedecker — COMMENTED** [review]
Thanks!

bors d+
